US06825170B2
Step A: 5-(4-methylphenyl)-1,2,4-oxadiazole
To a solution of 3.54 g (0.0510 mol) of hydroxylamine hydrochloride in a mixture of 10.2 mL (0.0510 mol) of 5 N NaOH, dioxane (50 mL), and 70% aq. acetic acid (100 mL), is added 6.79 g (0.0424) of N-[(dimethylamino)methylene]-4-methylbenzamide (prepared as described in J. Chem. Soc. Perkin. Trans. 1 1989, 589). The mixture is stirred at 90° C. for 1.5 h and the product is isolated from the cooled reaction mixture. MS 161 (M+H)+.

reactant | hydroxylamine hydrochloride | 0.0510 mol, 3.54 g | Cl.NO
reactant | NaOH | 0.0510 mol, 5 N, 10.2 mL | [OH-].[Na+]
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | N-[(dimethylamino)methylene]-4-methylbenzamide | 6.79 g | CN(C)C=NC(C1=CC=C(C=C1)C)=O | C11H14N2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-(4-methylphenyl)-1,2,4-oxadiazole | CC1=CC=C(C=C1)C1=NC=NO1 | C9H8N2O
